US04570007
2-Azido-(2,2-dimethyl-1,3-dioxolan-4-yl)ethanol
4.23 g of sodium azide is dissolved in a mixture of 50 ml of water and 100 ml of dioxane. The solution is heated to 60° C., 8.65 g of 2-(2,2-dimethyl-1,3-dioxolan-4-yl)ethylene oxide in 10 ml of dioxane is added dropwise thereto, and the mixture is heated for 2 hours to 80° C. After cooling, the aqueous phase is saturated with sodium chloride. The organic phase is separated, dried over sodium sulfate, and concentrated to dryness under vacuum. The residue is distilled with a water-jet aspirator. 2-Azido-(2,2-dimethyl-1,3-dioxolan-4-yl)ethanol passes over at 130°-132° C./13 mm as a colorless oil. Yield: 9.1 g (81% of theory).

reactant | sodium azide | 4.23 g | [N-]=[N+]=[N-].[Na+]
reactant | 2-(2,2-dimethyl-1,3-dioxolan-4-yl)ethylene oxide | 8.65 g | CC1(OCC(O1)C1CO1)C | C7H12O3
reactant | sodium chloride | [Cl-].[Na+]
solvent | water | 50 ml | O | H2O
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | 2-Azido-(2,2-dimethyl-1,3-dioxolan-4-yl)ethanol | N(=[N+]=[N-])CC(O)C1OC(OC1)(C)C | C7H13N3O3
